US08283353B2
4′-[(4-{trans-4-[hydroxy(4-methoxyphenyl)methyl]cyclohexyl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile
4′-{[4-(trans-4-Formylcyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (2.6 g) was dissolved in tetrahydrofuran (50 mL), and bromo(4-methoxyphenyl)magnesium (0.5M tetrahydrofuran solution, 16 mL) was added at −78° C. The reaction mixture was stirred at −78° C. for 2 hr, 1 N hydrochloric acid was added, and the mixture was extracted with ethyl acetate. The obtained ethyl acetate layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give the title compound as a colorless solid (2.2 g, 70%).

reactant | 4′-{[4-(trans-4-Formylcyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 2.6 g | C(=O)[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C29H29N5O2
reactant | bromo(4-methoxyphenyl)magnesium | 0.5M, 16 mL | Br[Mg]C1=CC=C(C=C1)OC
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 4′-[(4-{trans-4-[hydroxy(4-methoxyphenyl)methyl]cyclohexyl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile | 2.2 g, 70% | OC([C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)C2=CC=C(C=C2)OC | C36H37N5O3
